US08039469B2
A mixture of 2-chloro-4,6-di-morpholin-4-yl-[1,3,5]triazine (1.4 g, 4.9 mmoles), a catalytic amount of tetrakis(triphenylphosphine)palladium(0) (70 mg, 0.061 mmoles), sodium carbonate solution 2 M (3 mL), 4-aminophenylboronic acid pinacol ester (1.6 g, 7.3 mmoles) and DME (100 mL) was refluxed for 24 hours. The solvent was evaporated, and the residue was dissolved in methylene chloride and filtered through Celite™. The filtrate was washed with water (200 mL) and the organic layer was dried with magnesium sulfate. This was filtered and the solvent was evaporated. The residue was purified by Silica gel column chromatography and eluted with Ethyl acetate/hexanes (1:1) to give 1.40 g, (83% yield) of 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline as an amorphous solid. (M+H) 343.

reactant | 2-chloro-4,6-di-morpholin-4-yl-[1,3,5]triazine | 4.9 mmoles, 1.4 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1 | C11H16ClN5O2
reactant | sodium carbonate | 2 M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-aminophenylboronic acid pinacol ester | 7.3 mmoles, 1.6 g | NC1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.061 mmoles, 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 100 mL | COCCOC | C4H10O2
product | 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline | 83% yield | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(N)C=C1 | C17H22N6O2
